US08030305B2
(4-Hydroxy-phenyl)-acetic acid hydrazide
To a solution of (4-Hydroxy-phenyl)-acetic acid methyl ester (5 g, 30.08 mmol) in MeOH (20 mL, anhydrous) was added hydrazine (3.77 mL, 120.35 mmol) and then heated to 55° C. for 1 hour. A white precipitate formed during heating. The reaction was then cooled to rt and stirred for an additional hour to facilitate precipitation of solid. The reaction was filtered and the solid was washed with MeOH and dried resulting in the desired product (4.3 g, 86%) as a white solid. 1H-NMR (DMSO): δ 9.20 (1H, s), 9.10 (1H, s), 7.04-7.02 (2H, d, J=8.6 Hz), 6.67-6.65 (2H, d, J=8.6 Hz), 4.17-4.16 (2H, s), 4.11-4.09 (1H, q, J=5.0, 5.5 Hz).

reactant | (4-Hydroxy-phenyl)-acetic acid methyl ester | 30.08 mmol, 5 g | COC(CC1=CC=C(C=C1)O)=O | C9H10O3
reactant | hydrazine | 120.35 mmol, 3.77 mL | NN | H4N2
solvent | MeOH | 20 mL | CO | CH4O
product | (4-Hydroxy-phenyl)-acetic acid hydrazide | 4.3 g, 86% | OC1=CC=C(C=C1)CC(=O)NN | C8H10N2O2
